US04806664
120 g (0.35 mole) of 4-n-octyldeoxybenzoin are dissolved in 500 ml of 1,2,2-trichloro-1,1,2-trifluoroethane. 16 ml (56 g, 0.35 mole) of bromine are added dropwise in the course of one hour, while irradiating with UV light, so that the solution is continuously decolorized. Thereafter, the reaction solution is heated at the boil for one hour, and thin layer chromatography is used to check for complete conversion. The solvent is completely stripped off, 140 g of crude product being obtained as the residue. This is dissolved in 100 ml of ethanol, and a solution of 56.7 g (1.05 moles) of sodium methylate in 200 ml of ethanol is added dropwise at room temperature to the stirred solution, the internal temperature increasing to 35° C. The reaction mixture is stirred for a further 15 hours at room temperature, after which it is discharged onto 1 l of semiconcentrated hydrochloric acid and stirring is continued for about a further 30 minutes. The precipitate is filtered off, washed with water and recrystallized from petroleum ether (60°-80° C.) to give 103.2 g (91% yield) of 4-n-octylbenzoin of melting point 65°-70° C.). According to thin layer chromatography, this product is only slightly contaminated. Column chromatography over silica gel 60 using methylene chloride as the mobile phase gives 70 g (62%) of analytically pure 4-n-octylbenzoin (thin layer chromatography over silica gel/CH2Cl2 : R=0.78; toluene: R=0.18).

reactant | 4-n-octyldeoxybenzoin | 0.35 mole, 120 g | C(CCCCCCC)C1=CC=C(C=C1)C(=O)CC1=CC=CC=C1 | C22H28O
reactant | bromine | 0.35 mole, 16 ml, 56 g | BrBr | Br2
reactant | sodium methylate | 1.05 moles, 56.7 g | C[O-].[Na+]
reactant | hydrochloric acid | 1 l | Cl | ClH
solvent | 1,2,2-trichloro-1,1,2-trifluoroethane | 500 ml | ClC(C(F)(Cl)Cl)(F)F | C2Cl3F3
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-n-octylbenzoin | 103.2 g, 91% yield | C(CCCCCCC)C1=CC=C(C=C1)C(=O)C(O)C1=CC=CC=C1 | C22H28O2
